US05206244
H. Zinc - Titanium Tetrachloride - Dibromomethane Complex (Preparation 1)
This complex was prepared according to the procedure of L. Lombardo, Tetr. Let., 23, 4293 (1982). Titanium tetrachloride (11.5 ml, 0.105 mol) was slowly added dropwise to a stirred mixture of zinc dust (28.76 g, 0.44 mol) and dibromomethane (10.1 ml, 0.143 mol) in dry tetrahydrofuran (300 ml) at -40° under nitrogen. The mixture was warmed to 5° over 30 minutes, and then stirred at 5° for 4 days under argon. The slurry was stored at -20° under nitrogen and warmed to room temperature prior to use.

reactant | Titanium tetrachloride | 0.105 mol, 11.5 ml | [Ti](Cl)(Cl)(Cl)Cl
reactant | zinc | 0.44 mol, 28.76 g | [Zn] | Zn
reactant | dibromomethane | 0.143 mol, 10.1 ml | BrCBr | CH2Br2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Zinc - Titanium Tetrachloride Dibromomethane | [Ti](Cl)(Cl)(Cl)Cl.[Zn].BrCBr | InChI=1S/CH2Br2.4ClH.Ti.Zn/c2-1-3;;;;;;/h1H2;4*1H;;/q;;;;;+4;/p-4
